US07419989B2
a. Preparation of 1-chloro-(R)-2-hydroxy-3-(4-methanesulfonylpiperazin-1-yl)propane
(R)-Epichlorohydrin (3.10 mL, 39.5 mmol) was added to a stirred solution of piperazine sulfonamide.TFA (10.0 g, 35.9 mmol) and diisopropylethylamine (6.26 mL, 35.9 mmol) in ethanol (150 mL) at room temperature. The reaction mixture was stirred for 18 h and a further amount of (R)-epichlorohydrin was added (0.28 mL, 3.6 mmol) and stirred for an additional 3 h. The reaction mixture was concentrated in vacuo and the white solid was suspended in ethanol (150 mL) and stirred for 2 days. The solid was collected by filtration and washed with cold ethanol to afford the title compound (5.69 g) as a white solid which was used without further purification. (m/z): [M+H]+ calcd for C8H17ClN2O3S, 257.07; found 257.2. 1H NMR (DMSO-d6): δ (ppm) 2.37 (dd, 1H), 2.45 (dd, 1H), 2.50-2.58 (m, 4H), 2.86 (s, 3H), 3.09 (m, 4H), 3.55 (dd, 1H), 3.65 (dd, 1H), 3.84 (m, 1H), 5.09 (d, 1H).

reactant | (R)-Epichlorohydrin | 39.5 mmol, 3.10 mL | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | piperazine sulfonamide | N1(CCNCC1)S(=O)(=O)N | C4H11N3O2S
reactant | TFA | 35.9 mmol, 10.0 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diisopropylethylamine | 35.9 mmol, 6.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 1-chloro-(R)-2-hydroxy-3-(4-methanesulfonylpiperazin-1-yl)propane | 5.69 g | ClC[C@@H](CN1CCN(CC1)S(=O)(=O)C)O | C8H17ClN2O3S
